US07943639B2
tert-Butyl 4-{2-[(4-methylbenzyl)sulfonyl]thieno[3,2-c]pyridin-4-yl}piperazine-1-carboxylate
Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate (0.44 mmol) was treated with 4-methylbenzylbromide (0.59 mmol) as described in Method P above and then reacted further with tert-butyl-piperazine-1-carboxylate as described in Method Q. Yield 0.005 g (3% over two steps). Beige solid. 1H NMR (300 MHz, CDCl3) δ 8.15 (d, J=6 Hz 1H), 7.40 (s, 1H), 7.00-7.16 (m, 4H), 4.42 (s, 2H), 3.46-3.60 (m, 4H), 3.37-3.46 (m, 4H), 2.34 (s, 3H), 1.49 (s, 9H); MS (ESI+) for C24H29N3O4S2 m/z 488 (M+H)+. HPLC 69%, RT 2.06 min (YMC ODS AQ, 33×3 mm, 10-90% acetonitrile in 3 min).

reactant | Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate | 0.44 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)[O-].[Li+]
reactant | 4-methylbenzylbromide | 0.59 mmol | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | tert-butyl-piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-Butyl 4-{2-[(4-methylbenzyl)sulfonyl]thieno[3,2-c]pyridin-4-yl}piperazine-1-carboxylate | CC1=CC=C(CS(=O)(=O)C2=CC=3C(=NC=CC3S2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C24H29N3O4S2
